US06818774B2
i) 2-(S)-[6-(4-Fluoro-benzyloxy)-3-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-propionamide
[2-[(1(S)-Carbamoyl-ethylamino)-methyl]-5-(4-fluoro-benzyloxy)-phenyl]-acetic acid methyl ester (0.150 g, 0.401 mmol) is refluxed in toluene at 140° C. with a Deam-Stark trap to remove the methanol formed in the reaction. After 5 h the product is obtained. The toluene is removed by evaporation and the compound is crystallized in ether (0.115 g, 84%). MS: m/e=343.4 (M+H+).

reactant | [2-[(1(S)-Carbamoyl-ethylamino)-methyl]-5-(4-fluoro-benzyloxy)-phenyl]-acetic acid methyl ester | 0.401 mmol, 0.150 g | COC(CC1=C(C=CC(=C1)OCC1=CC=C(C=C1)F)CN[C@@H](C)C(N)=O)=O | C20H23FN2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(S)-[6-(4-Fluoro-benzyloxy)-3-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-propionamide | FC1=CC=C(COC=2C=C3CC(N(CC3=CC2)[C@H](C(=O)N)C)=O)C=C1 | C19H19FN2O3
